US05244908
(1) Synthesis of 3-methylsulfonylamino-1-methylsulfonyloxypropane
To a solution of 3-amino-1-propanol (11.47 ml, 150 mmoles) and triethylamine (46 ml, 330 mmoles) in dichloromethane (250 ml) was added methylsulfonyl chloride (25.5 ml, 330 mmoles) with stirring under ice-cooling and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed in turn with an aqueous sodium bicarbnonate and water and dried. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 24.22 g of the desired product (69.8%, white crystals).

reactant | 3-amino-1-propanol | 150 mmoles, 11.47 ml | NCCCO | C3H9NO
reactant | triethylamine | 330 mmoles, 46 ml | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 330 mmoles, 25.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-methylsulfonylamino-1-methylsulfonyloxypropane | 24.22 g, 69.8% | CS(=O)(=O)NCCCOS(=O)(=O)C | C5H13NO5S2
